US07858640B2
[8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-yl]acetic Acid
A mixture of [8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-yl]acetic acid methyl ester (0.040 g), methanol (2.0 mL), water (0.4 mL) and saturated aqueous lithium hydroxide solution (0.2 mL) was stirred at room temperature for 17 hours. The solvent was removed under reduced pressure and the residue diluted with water (2.0 mL) and then the pH adjusted to 4 by the addition of glacial acetic acid. The resulting precipitate was collected by filtration, washed with water and dried to afford title compound as a grey-brown solid, 0.038 g.

reactant | [8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-yl]acetic acid methyl ester | 0.040 g | COC(CC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)SC1=CC=C(C=C1)Cl)C)=O | C20H17Cl2NO2S
reactant | methanol | 2.0 mL | CO | CH4O
reactant | lithium hydroxide | 0.2 mL | [OH-].[Li+]
solvent | water | 0.4 mL | O | H2O
product | [8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-yl]acetic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)C)SC1=CC=C(C=C1)Cl)C)CC(=O)O | C19H15Cl2NO2S
